US07109229B2
(b) Methyl {1-[2-(tert-butyldimethylsilyloxy)ethyl]-6-methoxy-1H-indol-3-yl}-oxoacetate
A solution of 1-[2-(tert-butyldimethylsilyloxy)ethyl]-6-methoxy-1H-indole (14.6 g, 46.5 mmol) in Et2O (300 mL) was cooled to 4° C. (ice bath) and 2.0 M solution of oxalyl chloride in THF (25.6 mL, 51.2 mmol) was added dropwise. The ice bath was removed and the reaction was allowed to warm to room temperature (1.5 h). The reaction was then cooled to −78° C. and a solution of 25% (w/w) NaOMe in MeOH (23.2 mL, 107.0 mmol) was introduced over 5 min. The reaction was allowed to warm to room temperature. The reaction was quenched with H2O (300 mL) and poured into EtOAc (300 mL). The water layer was separated and extracted with EtOAc (2×200 mL). The combined organic solution was washed with saturated aqueous NH4Cl (300 mL) and brine (400 mL), dried (MgSO4), filtered and concentrated. Flash chromatography (SiO2, 50% hexanes/EtOAc) gave the title compound (16.2 g, 89%) as a yellow solid. 1H NMR (300 MHz, CDCl3) 8.44 (m, 2H), 7.12 (d, J=7.2 Hz, 1H), 6.98 (s, 1H), 4.38 (m, 2H), 4.10–4.00 (m, 5H), 3.96 (s, 3H), 0.94 (s, 9H), 0.02 (s, 6H).

reactant | 1-[2-(tert-butyldimethylsilyloxy)ethyl]-6-methoxy-1H-indole | 46.5 mmol, 14.6 g | [Si](C)(C)(C(C)(C)C)OCCN1C=CC2=CC=C(C=C12)OC | C17H27NO2Si
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 51.2 mmol, 25.6 mL | C1CCOC1 | C4H8O
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 107.0 mmol, 23.2 mL | CO | CH4O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | Methyl {1-[2-(tert-butyldimethylsilyloxy)ethyl]-6-methoxy-1H-indol-3-yl}-oxoacetate | 16.2 g, 89% | [Si](C)(C)(C(C)(C)C)OCCN1C=C(C2=CC=C(C=C12)OC)C(C(=O)OC)=O | C20H29NO5Si
